US04426387
1-Benzoyl-3-[1-(4-isopropylbenzyl)piperid-4-yl]urea
4-Isopropylbenzyl chloride (0.84 g, 0.005 m), 4-benzoylureidopiperidine (1.28 g, 0.005 m) and triethylamine (0.6 g) in dimethylformamide (25 cm3) were stirred at room temperature for 24 hours. Water was added and the precipitated solid filtered off. The solid was suspended in isopropylalcohol and acidified with ethanolic HCl. The title compound was filtered off and dried (1.2 g), m.p. 240°-242° C. as the hydrochloride salt, hemihydrate.

reactant | 4-Isopropylbenzyl chloride | 0.84 g | C(C)(C)C1=CC=C(CCl)C=C1 | C10H13Cl
reactant | 4-benzoylureidopiperidine | 1.28 g | C(C1=CC=CC=C1)(=O)NC(NC1CCNCC1)=O | C13H17N3O2
reactant | triethylamine | 0.6 g | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | dimethylformamide | 25 cm3 | CN(C=O)C | C3H7NO
product | 1-Benzoyl-3-[1-(4-isopropylbenzyl)piperid-4-yl]urea | C(C1=CC=CC=C1)(=O)NC(=O)NC1CCN(CC1)CC1=CC=C(C=C1)C(C)C | C23H29N3O2
